US20010027208A1
A 150 mg (0.79 mmol) portion of tert-butyl N-(2,3-epoxypropoxy)carbamate was dissolved in 1 ml of methanol, and the solution was -mixed with 0.08 ml (0.95 mmol) of pyrrolidine and stirred at room temperature for 14 hours. The reaction solution was mixed with a saturated ammonium chloride aqueous solution and extracted with chloroform. The chloroform layer was washed with saturated brine and dried with anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure to obtain 181 mg (yield, 88%) of tert-butyl N-(2-hydroxy-3-pyrrolidinylpropoxy)-carbamate.

reactant | tert-butyl N-(2,3-epoxypropoxy)carbamate | O1C(CONC(OC(C)(C)C)=O)C1 | C8H15NO4
reactant | pyrrolidine | 0.95 mmol, 0.08 ml | N1CCCC1 | C4H9N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 1 ml | CO | CH4O
product | tert-butyl N-(2-hydroxy-3-pyrrolidinylpropoxy)-carbamate | 181 mg, 88% | OC(CONC(OC(C)(C)C)=O)CN1CCCC1 | C12H24N2O4
